US04409214
To a suspension of benzhydryl 7-[2-(5-amino-1,2,4-oxadiazol-3-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate (2.4 g) in methylene chloride (15 ml) and anisole (1.8 g) was added trifluoroacetic acid (4.9 g), and the mixture was stirred at ambient temperature for an hour. To the reaction mixture was added diisopropyl ether (150 ml), and the precipitated material was collected by filtration, followed by suspension in a mixture of ethyl acetate and water, and adjusting to pH 7 with 10% aqueous sodium hydroxide. To the separated aqueous solution was added ethyl acetate and saturated with sodium chloride. After adjusting to pH 1.5 with 10% hydrochloric acid, the ethyl acetate solution was separated, washed with a saturated aqueous sodium chloride and then dried over anhydrous magnesium sulfate. Removal of the solvent gave a residue, which was washed with diethyl ether to obtain 7-[2-(5-amino-1,2,4-oxadiazol-3-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer)(1.6 g).

reactant | benzhydryl 7-[2-(5-amino-1,2,4-oxadiazol-3-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate | 2.4 g | NC1=NC(=NO1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC | C27H24N6O6S
reactant | anisole | 1.8 g | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 4.9 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropyl ether | 150 ml | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 7-[2-(5-amino-1,2,4-oxadiazol-3-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid | 1.6 g | NC1=NC(=NO1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=NOC | C14H14N6O6S
